US08975254B2
c) (Z)-3-Chloro-4-cyano-N-hydroxy-2-methylbenzimidoyl chloride
(E)-2-chloro-4-((hydroxyimino)methyl)-3-methylbenzonitrile (0.64 g, 3.27 mmol) was dissolved in DMF (20 ml) and cooled to 0° C. N-Chlorosuccinimide (0.48 g, 3.60 mmol) was added and the mixture was allowed to warm at RT. The mixture was stirred overnight at RT and poured into ice water (100 ml), extracted twice with EtOAc, The organic phase was washed with water and brine, dried over anhydrous Na2SO4, filtered and evaporated. The crude product (0.69 g) was used without purification. 1H-NMR (400 MHz; d6-DMSO): δ 2.42 (s, 3H), 7.64 (d, 1H), 7.92 (d, 1H), 12.77 (s, 1H).

reactant | (E)-2-chloro-4-((hydroxyimino)methyl)-3-methylbenzonitrile | 3.27 mmol, 0.64 g | ClC1=C(C#N)C=CC(=C1C)/C=N/O | C9H7ClN2O
reactant | N-Chlorosuccinimide | 3.60 mmol, 0.48 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (Z)-3-Chloro-4-cyano-N-hydroxy-2-methylbenzimidoyl chloride | ClC=1C(=C(/C(=N/O)/Cl)C=CC1C#N)C | C9H6Cl2N2O
